**** ctat voltage generation circuit with multiple bjt *****

.lib "/home/ruthwika/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

.global vdd gnd
.temp 27

*** bjt definition
xqp1	gnd	gnd	qp1	gnd	sky130_fd_pr__pnp_05v5_W3p40L3p40	m=8

*** supply voltage and current
vsup	vdd	gnd	dc	2
isup	vdd	qp1	dc 	10u
.dc	temp	-40	125	5

*** control statement
.control
run
plot v(qp1)
.endc
.end

